US07342133B2
1-(4-Chlorobenzyl)-2-dimethylaminomethyl-cycloheptanol
A solution of 32.00 g of 2-dimethylaminomethylcycloheptanone in 190 ml of absolute diethyl ether was added dropwise at 20° C., with stirring, to a freshly prepared solution of the Grignard reagent comprising 6.17 g of magnesium turnings and 40.50 g of 4-chlorobenzyl chloride in 500 ml of absolute diethyl ether. When the addition was complete, stirring was continued for a further 2 hours at 20° C. Decomposition was then effected, while cooling with ice, by the dropwise addition of 100 ml of a saturated ammonium chloride solution followed by 200 ml of distilled water. The organic phase was separated off, and the aqueous phase was extracted twice using 200 ml of ethyl acetate each time. The combined organic extracts were washed with saturated sodium chloride solution, dried over sodium sulfate and concentrated by evaporation in vacuo. The oily residue was purified by column chromatography with ethyl acetate as eluant, 39.69 g of the title compound being obtained in the form of the free base. This was dissolved in 270 ml of 2-butanone and converted into the hydrochloride by addition of 2.8 ml of water and 17.4 ml of trimethylchlorosilane. 37.30 g (59.4% of theory) of the title compound as a diastereoisomeric mixture were obtained in the form of colorless crystals.

reactant | 2-dimethylaminomethylcycloheptanone | 32.00 g | CN(C)CC1C(CCCCC1)=O | C10H19NO
reactant | magnesium | [Mg] | Mg
reactant | 4-chlorobenzyl chloride | 40.50 g | ClC1=CC=C(CCl)C=C1 | C7H6Cl2
reactant | ammonium chloride | 100 ml | [Cl-].[NH4+]
solvent | diethyl ether | 190 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 500 ml | C(C)OCC | C4H10O
solvent | water | 200 ml | O | H2O
product | 1-(4-Chlorobenzyl)-2-dimethylaminomethyl-cycloheptanol | 39.69 g | ClC1=CC=C(CC2(C(CCCCC2)CN(C)C)O)C=C1 | C17H26ClNO
